US04914111
Alternate synthesis of 4-(4-methoxybenzyl)thiophene-2-sulfonamide
To a solution of 0.667 g (0.005 mol) aluminum chloride in 10 ml THF at 0°-10° C. was added a solution of 0.19 g (0.005 mol) lithium aluminum hydride in 10 ml THF dropwise. Then, a solution of 0.6 g (0.002 mol) 4-(4-methoxybenzoyl)thiophene-2-sulfonamide in 10 ml THF was added dropwise and the resulting mixture was heated at 60° C. overnight at which time all starting material was consumed. The cooled reaction mixture was quenched with saturated aqueous sodium potassium tartrate solution and the resulting grey solid was filtered off. The filtrate was dried and the solvent evaporated to give the title compound.

reactant | aluminum chloride | 0.005 mol, 0.667 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | lithium aluminum hydride | 0.005 mol, 0.19 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-(4-methoxybenzoyl)thiophene-2-sulfonamide | 0.002 mol, 0.6 g | COC1=CC=C(C(=O)C=2C=C(SC2)S(=O)(=O)N)C=C1 | C12H11NO4S2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-(4-methoxybenzyl)thiophene-2-sulfonamide | COC1=CC=C(CC=2C=C(SC2)S(=O)(=O)N)C=C1 | C12H13NO3S2
